US06492550B2
Methyl 4-tert-Butoxycarbonyl-2-hydroxybutanoate
Crude methyl 4-tert-butoxycarbonyl-2-oxobutanoate (1.65 g, 7.6 mmol) and sodium triacetoxyborohydride (1.6 g, 7.6 mmol) were reacted by the same procedure as described in Example 1 for the preparation of methyl 7-tert-butoxycarbonyl-2-hydroxyheptanoate to give the title compound (460 mg, 28% 2 steps) as a colorless liquid.

reactant | methyl 4-tert-butoxycarbonyl-2-oxobutanoate | 7.6 mmol, 1.65 g | C(C)(C)(C)OC(=O)CCC(C(=O)OC)=O | C10H16O5
reactant | sodium triacetoxyborohydride | 7.6 mmol, 1.6 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | methyl 7-tert-butoxycarbonyl-2-hydroxyheptanoate | C(C)(C)(C)OC(=O)CCCCCC(C(=O)OC)O | C13H24O5
product | Methyl 4-tert-Butoxycarbonyl-2-hydroxybutanoate | 460 mg, 28% | C(C)(C)(C)OC(=O)CCC(C(=O)OC)O | C10H18O5
